US07144890B2
To a cooled (dry-ice/acetone bath) suspension of anhydrous aluminium trichloride (5 eq, 45.82 g, 0.34 Mol) in carbon disulfide (450 ml) was added oxalyl chloride (4 eq, 23.58 ml) dropwise. The mixture was allowed to reach room temperature before the slow addition of 1,1′-(1,2-ethanediyl)bis[3-fluorobenzene](1 eq, 15.00 g) as a solution in carbon disulfide (20 ml). The mixture was heated overnight at 35° C. and diluted with chloroform (400 ml). The mixture was cooled (ice-bath) and water (400 ml) slowly added. The phases were separated, the aqueous phase extracted with chloroform and the combined organic phases dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (15:1 heptane/ethyl acetate) to afford 2,8-difluoro-10,11-dihydro-dibenzo[a,d]cycloheptene-5-one as a yellow solid (4.98 g, 29%).

reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | aluminium trichloride | 0.34 Mol, 45.82 g, 5 eq | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | oxalyl chloride | 23.58 ml, 4 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,1′-(1,2-ethanediyl)bis[3-fluorobenzene] | 15.00 g, 1 eq | C(CC1=CC(=CC=C1)F)C1=CC(=CC=C1)F | C14H12F2
solvent | carbon disulfide | 450 ml | C(=S)=S | CS2
solvent | carbon disulfide | 20 ml | C(=S)=S | CS2
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 400 ml | O | H2O
product | 2,8-difluoro-10,11-dihydro-dibenzo[a,d]cycloheptene-5-one | 4.98 g, 29% | FC1=CC2=C(C(C3=C(CC2)C=C(C=C3)F)=O)C=C1 | C15H10F2O
